US06495568B1
4-Bromo-2-methoxylbiphenyl
n-Amyl nitrite (8.1 ml, 60 mmol) was slowly added to a stirred mixture of 4-bromo-2-methoxyaniline (J.Med.Chem., 1989, 32, 1936; 8.1 g, 60 mmol) and benzene (175 ml), under nitrogen, at about 50° C. When the addition was complete, the reaction mixture was heated under reflux for about 3 hours, then allowed to cool to room temperature and evaporated under reduced pressure. The residue was azeotroped with tetrahydrofuran, then with ethyl acetate, and purified by flash chromatography, using an elution gradient of hexane:ethyl acetate (100:0 to 95:5) to give the title compound (1.66 g) as a colourless solid, m.p. 50-52° C. δ(CDCl3): 3.77 (s,3H), 7.08 (s,1H), 7.14 (s,2H), 7.30 (m,1H), 7.36-7.41 (m,2H), 7.41-7.49 (m,2H).

reactant | n-Amyl nitrite | 60 mmol, 8.1 ml | CCCCCON=O | C5H11NO2
reactant | 4-bromo-2-methoxyaniline | 60 mmol, 8.1 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | benzene | 175 ml | C1=CC=CC=C1 | C6H6
product | 4-Bromo-2-methoxylbiphenyl | 1.66 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C13H11BrO
